US08980877B2
(±)-(E)-3-[1′Benzyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid hydrochloride salt (450 mg, 1.12 mmol) was treated with NH2OTHP following the procedure described in Example 1, Step C, giving (±)-(E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (226 mg) as a light yellow solid.

reactant | (±)-(E)-3-[1′Benzyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid hydrochloride salt | 1.12 mmol, 450 mg | Cl.C(C1=CC=CC=C1)N1CC2(CC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O
reactant | NH2OTHP | NOC1OCCCC1 | C5H11NO2
product | (±)-(E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 226 mg | C(C1=CC=CC=C1)N1CC2(CC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C27H30N2O5
